US07678810B2
A 2.6M solution of n-butylithium in hexane (34 ml) was dropped into a solution of 4-methylthiazole (8.0 g) of tetrahydrofuran (150 ml) at −70° C. and the mixture was stirred for 30 minutes. Further, a solution of 2-benzo(1,3)dioxol-5-yl-N-methoxy-N-methylacetamide (20.0 g) in tetrahydrofuran (20 ml) was dropped therein and the mixture was stirred for 1 hour. This solution, to which a saturated aqueous solution of ammonium chloride was added, was extracted with ethyl acetate, and after the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated. The resultant residue was purified by silica gel flash column chromatography using a mixed solvent of ethyl acetate and hexane to yield 2-benzo(1,3)dioxol-5-yl-1-(4-methylthiazol-2-yl)ethanone (19.3 g).

reactant | 4-methylthiazole | 8.0 g | CC=1N=CSC1 | C4H5NS
reactant | 2-benzo(1,3)dioxol-5-yl-N-methoxy-N-methylacetamide | 20.0 g | O1COC2=C1C=CC(=C2)CC(=O)N(C)OC | C11H13NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 34 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-benzo(1,3)dioxol-5-yl-1-(4-methylthiazol-2-yl)ethanone | 19.3 g | O1COC2=C1C=CC(=C2)CC(=O)C=2SC=C(N2)C | C13H11NO3S
